US09388161B2
A mixture of (S)-cyclopropyl(2-methyl-6-(4-nitro-1H-pyrazol-1-yl)-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)methanone (0.060 g, 0.15 mmol), iron powder (0.040 g, 0.72 mmol), ammonium chloride (0.023 g, 0.43 mmol), tetrahydrofuran (4 mL), ethanol (4 mL), and water (1 mL) stirred overnight at 80° C. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under vacuum, and the residue was purified by preparative thin layer chromatography (eluting with 1:1, ethyl acetate/petroleum ether) to afford (S)-(6-(4-amino-1H-pyrazol-1-yl)-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.045 g, 81%) as a brown solid. MS (ESI, pos. ion) m/z 389 [M+H]+.

reactant | (S)-cyclopropyl(2-methyl-6-(4-nitro-1H-pyrazol-1-yl)-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.15 mmol, 0.060 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC(=C1)[N+](=O)[O-])OC1=CC=CC=C1)C | C23H22N4O4
reactant | ammonium chloride | 0.43 mmol, 0.023 g | [Cl-].[NH4+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | ethanol | 4 mL | C(C)O | C2H6O
catalyst | iron | 0.72 mmol, 0.040 g | [Fe] | Fe
solvent | water | 1 mL | O | H2O
product | (S)-(6-(4-amino-1H-pyrazol-1-yl)-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.045 g, 81% | NC=1C=NN(C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=CC=CC=C1 | C23H24N4O2
